US07709645B2
To a solution of (methoxymethyl)triphenylphosphonium chloride (866 mg, 2.53 mmol) in tetrahydrofuran (20 ml) was added potassium bis(trimethylsilyl)amide (5.0 ml, 0.5M, 2.5 mmol). The red-orange reaction mixture was stirred at room temperature for 45 minutes. A solution of (2-amino-5-bromo-pyridin-3-yl)-(2-ethyl-2H-pyrazol-3-yl)-methanone (339 mg, 1.15 mmol) in tetrahydrofuran (10 ml) was added to the reaction mixture. The combined solution was stirred for 4 hours, and then quenched with saturated, aqueous ammonium chloride. The mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over sodium sulfate, and concentrated in vacuo. The crude material was purified by flash chromatography (0 to 100% [10% methanol in ethyl acetate] in hexanes) to give 280 mg (75%) of 5-bromo-3-[1-(2-ethyl-2H-pyrazol-3-yl)-2-methoxy-vinyl]-pyridin-2-ylamine. MS: m/z 323.2+325.2 (M+H+).

reactant | (methoxymethyl)triphenylphosphonium chloride | 2.53 mmol, 866 mg | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium bis(trimethylsilyl)amide | 2.5 mmol, 0.5M, 5.0 ml | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | (2-amino-5-bromo-pyridin-3-yl)-(2-ethyl-2H-pyrazol-3-yl)-methanone | 1.15 mmol, 339 mg | NC1=NC=C(C=C1C(=O)C=1N(N=CC1)CC)Br | C11H11BrN4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-bromo-3-[1-(2-ethyl-2H-pyrazol-3-yl)-2-methoxy-vinyl]-pyridin-2-ylamine | 280 mg, 75% | BrC=1C=C(C(=NC1)N)C(=COC)C=1N(N=CC1)CC | C13H15BrN4O
